US04005153
A mixture of 294 grams (2.0 moles) of paradichlorobenzene, 819 grams (3.0 moles) of hexachlorocyclopentadiene, and 15 grams of aluminum chloride, in 300 grams of perchloroethylene was heated at 80°-92° centigrade for two hours during which time a total of 103 grams of hydrogen chloride was evolved. Ten milliliters of water and 20 grams of Superfiltrol absorbent were added and the reaction mixture was stirred at 60° centigrade for 30 minutes and then filtered with suction. The filtrate was distilled at reduced pressure and the fraction boiling at 131°-160° centigrade at 0.5 to 2.3 millimeters of mercury pressure was collected and refractionated through a one foot long heated Vigreux column to give pure 2,4-dichlorophenyl pentachlorocyclopentadiene as a pale yellow viscous oil of boiling point of 146°-147° centigrade at 0.4-0.6 millimeters of mercury.

reactant | paradichlorobenzene | 2.0 moles, 294 grams | ClC1=CC=C(C=C1)Cl | C6H4Cl2
reactant | hexachlorocyclopentadiene | 3.0 moles, 819 grams | ClC1(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C5Cl6
reactant | aluminum chloride | 15 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrogen chloride | 103 grams | Cl | ClH
solvent | perchloroethylene | 300 grams | ClC(=C(Cl)Cl)Cl | C2Cl4
solvent | water | Ten milliliters | O | H2O
product | 2,4-dichlorophenyl pentachlorocyclopentadiene | ClC1=C(C=CC(=C1)Cl)C1(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C11H3Cl7
